US08614215B2
Intermediate 80: 4-(aminosulfonyl)-N,N-dimethylbenzamide
To a solution of 4-carboxybenzenesulfonamide (5 g; 24.8 mmol; 1 eq) in THF (75 mL) at 0° C. is added in one portion 1,1′-carbonyl diimidazole (4.8 g; 29.8 mmol; 1.2 eq) and the reaction mixture is stirred for 3 h at room temperature. A solution of dimethylamine (37.3 mL; 2 M; 74.6 mmol; 3 eq) in THF is added dropwise over 20 min and the reaction mixture is stirred at room temperature for 1 h. The solvent is removed under reduced pressure and the residue is diluted with EtOAc (100 mL) and the organic phase is washed with a 10% solution of NaHCO3 (30 mL). The white precipitate formed in the aqueous phase is filtered off, washed with water and dried under vacuum to afford 4.1 g (72%) of the title compound as a white solid. 1H NMR (DMSO-d6) δ 7.86 (d, J=8.3 Hz, 2H), 7.58 (d, J=8.3 Hz, 2H), 7.45 (s, 2H), 3.00 (s, 3H), 2.88 (s, 3H). HPLC (max plot) 99%; Rt 1.07 min. LC/MS: (ES+): 229.0.

reactant | 4-carboxybenzenesulfonamide | 24.8 mmol, 5 g, 1 eq | C(=O)(O)C1=CC=C(C=C1)S(=O)(=O)N | C7H7NO4S
reactant | 1,1′-carbonyl diimidazole | 29.8 mmol, 4.8 g, 1.2 eq | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | 74.6 mmol, 2 M, 37.3 mL, 3 eq | CNC | C2H7N
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 4-(aminosulfonyl)-N,N-dimethylbenzamide | 4.1 g, 72% | NS(=O)(=O)C1=CC=C(C(=O)N(C)C)C=C1 | C9H12N2O3S
